US07151118B2
2-(2-Morpholin-4-ylethyl)aniline 4-[(2-Nitrophenyl)ethyl]morpholine (11.4 g, 40 mmol) and palladium on carbon (10%, 500 mg) in ethanol (200 ml) were hydrogenated under 1 Atm. of hydrogen at room temperature for 3 h. The reaction was filtered through hyflo and the filtrate reduced to dryness under vacuum. The residue was recrystallised from toluene/hexane to give 2-(2-morpholin-4-ylethyl)aniline (6.375 g). Microanalysis: calculated C, 69.87; H, 8.80; N, 13.58; found C, 69.80; H, 8.95; N, 13.60.

reactant | 2-(2-Morpholin-4-ylethyl)aniline 4-[(2-Nitrophenyl)ethyl]morpholine | 40 mmol, 11.4 g | [N+](=O)([O-])C1=C(C=CC=C1)CCN1CCOCC1.N1(CCOCC1)CCC1=C(N)C=CC=C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-morpholin-4-ylethyl)aniline | 6.375 g | N1(CCOCC1)CCC1=C(N)C=CC=C1 | C12H18N2O
